US08193199B2
Prepared according to Procedure A using 2,8-dichloroquinoline 3-carbaldehyde (1.70 g, 7.5 mmol), 2-chlorophenyl boronic acid (1.29 g, 8.25 mmol, 1.1 eq), tetrakis(triphenylphosphine)palladium (0.430 g, 0.375 mmol, 0.05 eq), and sodium carbonate (3.97 g, 37.5 mmol, 5 eq) in acetonitrile (57 mL) and water (19 mL). After purification, 8-chloro-2-(2-chlorophenyl)quinoline-3-carbaldehyde was obtained as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.25 (1H, s), 8.93 (1H, s), 8.14 (1H, d, J=8.6 Hz), 8.03 (1H, d, J=9.0 Hz), 7.55-7.64 (1H, t, J=8.0 Hz) Mass Spectrum (ESI) m/e=302.0 and 304.0 (M+1)

reactant | 2,8-dichloroquinoline 3-carbaldehyde | 7.5 mmol, 1.70 g | ClC1=NC2=C(C=CC=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | 2-chlorophenyl boronic acid | 8.25 mmol, 1.29 g, 1.1 eq | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 37.5 mmol, 3.97 g, 5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 57 mL | C(C)#N | C2H3N
solvent | water | 19 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.375 mmol, 0.430 g, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-2-(2-chlorophenyl)quinoline-3-carbaldehyde | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)C=O | C16H9Cl2NO
